US08039460B2
Step B: Ethyl 6-amino-5-(2,3-difluorophenyl)hexanoate
Raney-Nickel (2800, slurry in water; washed with ethyl alcohol (3×); 3.8 g) was added to a solution of ethyl 5-cyano-5-(2,3-difluorophenyl)pentanoate (4.75 g, 17.8 mmol) in ethanol (100 mL). Ammonia gas was bubbled to the reaction mixture and the mixture was stirred under hydrogen at 48 psi. After 18 h, the reaction was filtered and concentrated. MS 272.1 (M+1).

reactant | ethyl 5-cyano-5-(2,3-difluorophenyl)pentanoate | 17.8 mmol, 4.75 g | C(#N)C(CCCC(=O)OCC)C1=C(C(=CC=C1)F)F | C14H15F2NO2
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | Raney-Nickel | 3.8 g | [Ni] | Ni
product | Ethyl 6-amino-5-(2,3-difluorophenyl)hexanoate | NCC(CCCC(=O)OCC)C1=C(C(=CC=C1)F)F | C14H19F2NO2
